US08431603B2
(1i) 3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole-7-amine
Ethyl acetate (109 mL) and 10% palladium-carbon powder (50% wet: 2.34 g, 2.2 mmol) were added in that order to 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-7-nitrosopyrazolo[5,1-b][1,3]thiazole (2.34 g, 6.44 mmol), and the mixture was stirred for 1 hour under a hydrogen atmosphere. The mixture was filtered with Celite and the solvent in the obtained filtrate was distilled off under reduced pressure. The residue was purified by (NH)silica gel column chromatography (ethyl acetate) to obtain the title compound (1.43 g, 4.09 mmol).

reactant | 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-7-nitrosopyrazolo[5,1-b][1,3]thiazole | 6.44 mmol, 2.34 g | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)N=O | C16H17N3O5S
catalyst | palladium-carbon | 2.2 mmol, 2.34 g | [C].[Pd]
solvent | Ethyl acetate | 109 mL | C(C)(=O)OCC | C4H8O2
product | 3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazole-7-amine | 4.09 mmol, 1.43 g | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)OC)N | C16H19N3O4S
